datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1=CC=[C:10]([B-:11]23[N+:62](C)(C[C:73](=[O:74])[O:72]2)C[C:83](=[O:84])[O:82]3)O1.CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32]>>CC[O:33][C:31]([C:20]1([C:10]2=CC=C(C)O2)CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32].C[N+:62]12C[C:73](=[O:74])[O:72][B:11]1[O:82][C:83](=[O:84])C2 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1.CCCC[Ge:11](CCCC)(CCCC)[H:10]>>C1=CC=C([P:22](C2=CC=CC=C2)(=[N:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)[O-:23])C=C1.CCCC[Ge+:11](CCCC)CCCC 10,11=10,20;20,21=21,22;22,23=23"
"CCCN[C:62]([C@@H:61]1CCC[NH:10]1)=[O:63].Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl>>CCCN[C:62]([C@@H:61]1CCC[NH+:10]1[C:20]1([O-:21])[C:32](=[O:33])[C:31](Cl)=[C:30](Cl)[C:42](Cl)=[C:41]1Cl)=[O:63] 10=20;20,21=21"
"C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[N:12](C)[C:11](=[NH:10])[N:62](C)C>>C[N+:12](C)=[C:11]([NH:10][CH:20]([C:31]1=[CH:32][C:33](F)=[C:34](C)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]1)[N:62](C)C 10,11=10,20;12=11,12"
CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C(C#N)C=C2)[C:72](=[O:73])[O:83]1.[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=C(C#N)C=C2)([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[C:72](=[O:73])[O:83]1 10=20
"CC1=CC=CC=C1[P:10](C1=CC=CC=C1C)C1=C(C)C=CC=C1.C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>CC1=CC=CC=C1[P+:10](C1=CC=CC=C1C)(C1=C(C)C=CC=C1)[CH:20]1[C:21]2=[C:22](C=CC=C2)[N:23](C)[C:32]2=[C:31]1C=CC=C2 10=20;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]\C.C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1>>C[CH:10]([CH+:11]C)[C:20]1(C2=CC=CC=C2)[S:31]CCC[S:41]1 10,11=10,20"
"CC1=CC=C([S:32]([N:21]=[C:20]=[O:52])(=[O:33])=[O:43])C=C1.CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC[O:62]2)S1>>CC1=CC=C([S:32]([N-:21][C:20]([C:10]2=CC=C(C)S2)=[O:52])(=[O:33])=[O:43])C=C1.FC(F)(F)C1=CC(C(F)(F)F)=CC([B-:11]2=[O+:12]CC[O:62]2)=C1 10,11=10,20;12=11,12;20,21=21"
"CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2=[C:11]([O-:12])[O:62]C(C)(C)[O:83][C:72]2=[O:73])[CH:102]=[CH:103]1.C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2>>CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2([CH:20]([C:21]3=[C:22](C)[N:23](C)C4=C3C=CC=C4)[C:31]3=[C:32](C)[N:33](C)[C:42]4=[C:41]3C=CC=C4)[C:11](=[O:12])[O:62]C(C)(C)[O:83][C:72]2=[O:73])[CH:102]=[CH:103]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].C[Si:63](C)(C)[O:12]/[C:11]1=[CH:10]/CCCCCC1>>CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](=[CH:21][CH:20]([CH:10]1CCCCCC[C:11]1=[O+:12][Si:63](C)(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:92][C:61]([C-:10](F)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CC[O:92][C:61]([C:10](F)([CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:106])[CH:93]=[CH:92]1)(=[O:62])=[O:72]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.FC(F)(F)[S:61]([CH:10]([F:20])[C:81]1=[CH:82][CH:83]=[C:84]([N+:85](=[O:86])[O-:106])[CH:93]=[CH:92]1)(=[O:62])=[O:72] 10=20;20,21=21"
"CC1=CC=C([P:10](C2=CC=C(C)C=C2C)C2=CC=C(C)C=C2C)C(C)=C1.C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>CC1=CC=C([P+:10](C2=CC=C(C)C=C2C)(C2=CC=C(C)C=C2C)[CH2:20][CH:21]=[C:22]([O-:23])[N:33](C)C)C(C)=C1 10=20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCCCC2)C=C1.C1C[C:22](=[O:23])[CH:21]=[CH:20]1>>C1=CC=C([CH:10]([CH:11]=[N+:12]2CCCCC2)[CH:20]2CC[C:22]([O-:23])=[CH:21]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=C[C:61]2=[C:62](C=C1)[NH:12][N:11]=[N:10]2.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([N:10]1[N:11]=[NH+:12][C:62]2=[C:61]1C=CC=C2)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
